US04470972
As described in Example 1F, couple 0.76 g of 7-glycyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, hydrobromide (prepared as described in paragraph D next above) with 0.50 g of 2-oxo-4-phenylbutyric acid, ethyl ester to obtain 7-[N-(1-carboethoxy-3-phenylpropyl)glycyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid [α]D26 -39.0° (ethanol).

reactant | 7-glycyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, hydrobromide | 0.76 g | Br.NCC(=O)N1CC2(SCCS2)C[C@H]1C(=O)O
reactant | 2-oxo-4-phenylbutyric acid, ethyl ester | 0.50 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
solvent | ethanol | C(C)O | C2H6O
product | 7-[N-(1-carboethoxy-3-phenylpropyl)glycyl]-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid | C(=O)(OCC)C(CCC1=CC=CC=C1)NCC(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C21H28N2O5S2
